US07282501B2
3-(4-Hydroxy-2-{[(pyrazine-2-carbonyl)-amino]-methyl}-phenyl)-propionic acid tert-butyl ester
To a solution of pyrazine-2-carboxylic acid (0.570 g, 4.60 mmol) in CH2Cl2 (50 mL) was added EDC (0.960 g, 5.01 mmol) and HOBt (0.620 g, 4.60 mmol) at room temperature. The mixture was stirred for 10 min, and 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester (1.05 g, 4.18 mmol) was added. The reaction mixture was stirred for 18 h at room temperature, treated with water (50 mL), and extracted with CH2Cl2 (2×50 mL). The combined organic layers were dried (Na2SO4), concentrated, and purified by silica gel chromatography (EtOAc/hexanes, 1:1 to 1:0) to obtain the title compound (1.05 g, 70%). 1H NMR (400 MHz, CDCl3): δ 1.40 (s, 9H), 2.52 (t, 2H, J=7.6 Hz), 2.91 (t, 2H, J=7.6 Hz), 4.66 (d, 2H, J=6.4 Hz), 6.73 (dd, 1H, J=2.9, 7.8 Hz), 6.83 (d, 1H, J=2.4 Hz), 7.07 (d, 1H, J=8.3 Hz), 8.17 (br s, 1H), 8.49 (dd, 1H, J=1.5, 2.4 Hz), 8.73 (d, 1H, J=2.4 Hz), 9.41 (d, 1H, J=1.5 Hz). MS (ES) m/z 356.1 ([M−H]−).

reactant | pyrazine-2-carboxylic acid | 4.60 mmol, 0.570 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | EDC | 5.01 mmol, 0.960 g
reactant | HOBt | 4.60 mmol, 0.620 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester | 4.18 mmol, 1.05 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN)=O | C14H21NO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 3-(4-Hydroxy-2-{[(pyrazine-2-carbonyl)-amino]-methyl}-phenyl)-propionic acid tert-butyl ester | 1.05 g, 70% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(=O)C1=NC=CN=C1)=O | C19H23N3O4
